US08044213B2
A mixture of 28.05 g (114.4 mmole) of 4-(4-trifluoromethyl-phenyl)-3H-thiazol-2-one and 85 mL (0.92 mole) of phosphorus oxychloride was heated at reflux for 5 hours. The mixture was cooled and the excess phosphorus oxychloride was removed under reduced pressure. The residue was diluted with ethyl acetate and the slurry was poured onto ice. The mixture was made basic by the addition of saturated aqueous sodium carbonate solution. The ethyl acetate layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with ethyl acetate-hexanes (gradient 10:90-20:80) to give 19.34 g of 2-chloro-4-(4-trifluoromethyl-phenyl)-thiazole as a light brown solid.

reactant | 4-(4-trifluoromethyl-phenyl)-3H-thiazol-2-one | 114.4 mmole, 28.05 g | FC(C1=CC=C(C=C1)C=1NC(SC1)=O)(F)F | C10H6F3NOS
reactant | phosphorus oxychloride | 0.92 mole, 85 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-4-(4-trifluoromethyl-phenyl)-thiazole | 19.34 g | ClC=1SC=C(N1)C1=CC=C(C=C1)C(F)(F)F | C10H5ClF3NS
